US04006155
13.1 Grams (0.05 mole) of N-(cyclohexylthio)phthalimide and 6.9 grams (0.05 mole) of benzoyl thiol(thiobenzoic acid) in 150 ml of heptane are stirred overnight at room temperature. The precipitate is recovered by filtration, washed with carbon tetrachloride and dried. 7.3 Grams of phthalimide (m.p. 234° C) are obtained. The solvent is removed from the filtrate by evaporation under reduced pressure. 12 Grams (95% yield) of product, a light brown liquid, are obtained. The identity of the benzoylcyclohexyl disulfide is confirmed by GLC and NMR analyses. Analysis gives 25.51% sulfur compared to 25.45% sulfur calculated for C13H16OS2. Similarly, except N-(2-benzothiazolylthio)phthalimide is one reactant, there is obtained benzoyl-2-benzothiazolyl disulfide.

reactant | N-(cyclohexylthio)phthalimide | 0.05 mole | C1(CCCCC1)SN1C(C=2C(C1=O)=CC=CC2)=O | C14H15NO2S
solvent | heptane | 150 ml | CCCCCCC | C7H16
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
